### PR TITLE
[Merged by Bors] - feat: `‖c - a * b‖ ≤ ‖c - a‖ + ‖1 - b‖` when `‖a‖ ≤ 1`

### PR DESCRIPTION
**Pull request by YaelDillies**
This inequality is particularly useful when `c = 1` and `‖a‖ = ‖b‖ = 1` as it then shows that chord length is a metric on the unit circle.

From LeanAPAP

Co-authored-by: Bhavik Mehta <bhavik.mehta8@gmail.com>

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Review by b-mehta — APPROVED** [review]
I wrote a large part of this so I won't merge, but LGTM.

File: Mathlib/Analysis/Normed/Field/Basic.lean [hunk 1]
```diff
@@ -447,6 +447,21 @@ instance MulOpposite.instSeminormedRing : SeminormedRing αᵐᵒᵖ where
   __ := instRing
   __ := instNonUnitalSeminormedRing
 
+lemma norm_one_sub_mul (ha : ‖a‖ ≤ 1) : ‖c - a * b‖ ≤ ‖c - a‖ + ‖1 - b‖ :=
```
Comment (Ruben-VandeVelde) [inline Mathlib/Analysis/Normed/Field/Basic.lean:450]: I'm finding it hard to make sense of the name here. Maybe `norm_sub_mul`?

Comment (Ruben-VandeVelde) [reply Mathlib/Analysis/Normed/Field/Basic.lean:450]: Or `norm_sub_mul_le`

Comment (b-mehta) [inline Mathlib/Analysis/Normed/Field/Basic.lean:450]:
```suggestion
lemma norm_sub_mul (ha : ‖a‖ ≤ 1) : ‖c - a * b‖ ≤ ‖c - a‖ + ‖1 - b‖ :=
```

File: Mathlib/Analysis/Normed/Field/Basic.lean [hunk 2]
```diff
@@ -447,6 +447,21 @@ instance MulOpposite.instSeminormedRing : SeminormedRing αᵐᵒᵖ where
...
+  calc
+    _ ≤ ‖c - a‖ + ‖a * (1 - b)‖ := by
+        simpa [mul_one_sub] using norm_sub_le_norm_sub_add_norm_sub c a (a * b)
+    _ ≤ ‖c - a‖ + ‖a‖ * ‖1 - b‖ := by gcongr; exact norm_mul_le ..
+    _ ≤ ‖c - a‖ + 1 * ‖1 - b‖ := by gcongr
+    _ = ‖c - a‖ + ‖1 - b‖ := by simp
+
+lemma norm_one_sub_mul' (hb : ‖b‖ ≤ 1) : ‖c - a * b‖ ≤ ‖1 - a‖ + ‖c - b‖ := by
```
Comment (b-mehta) [inline Mathlib/Analysis/Normed/Field/Basic.lean:458]:
```suggestion
lemma norm_sub_mul' (hb : ‖b‖ ≤ 1) : ‖c - a * b‖ ≤ ‖1 - a‖ + ‖c - b‖ := by
```

File: Mathlib/Analysis/Normed/Field/Basic.lean [hunk 3]
```diff
@@ -447,6 +447,21 @@ instance MulOpposite.instSeminormedRing : SeminormedRing αᵐᵒᵖ where
...
+  rw [add_comm]; exact norm_one_sub_mul (α := αᵐᵒᵖ) hb
```
Comment (b-mehta) [inline Mathlib/Analysis/Normed/Field/Basic.lean:459]:
```suggestion
  rw [add_comm]; exact norm_sub_mul (α := αᵐᵒᵖ) hb
```

File: Mathlib/Analysis/Normed/Field/Basic.lean [hunk 4]
```diff
@@ -447,6 +447,21 @@ instance MulOpposite.instSeminormedRing : SeminormedRing αᵐᵒᵖ where
...
+
+lemma nnnorm_one_sub_mul (ha : ‖a‖₊ ≤ 1) : ‖c - a * b‖₊ ≤ ‖c - a‖₊ + ‖1 - b‖₊ := norm_one_sub_mul ha
+lemma nnnorm_one_sub_mul' (hb : ‖b‖₊ ≤ 1) : ‖c - a * b‖₊ ≤ ‖1 - a‖₊ + ‖c - b‖₊ :=
+  norm_one_sub_mul' hb
```
Comment (b-mehta) [inline Mathlib/Analysis/Normed/Field/Basic.lean:463]:
```suggestion
lemma nnnorm_sub_mul (ha : ‖a‖₊ ≤ 1) : ‖c - a * b‖₊ ≤ ‖c - a‖₊ + ‖1 - b‖₊ := norm_sub_mul ha
lemma nnnorm_sub_mul' (hb : ‖b‖₊ ≤ 1) : ‖c - a * b‖₊ ≤ ‖1 - a‖₊ + ‖c - b‖₊ :=
  norm_sub_mul' hb
```

File: Mathlib/Analysis/Normed/Field/Basic.lean (hunk 1 above)
Comment (b-mehta) [reply Mathlib/Analysis/Normed/Field/Basic.lean]: Good point, corrected.

**Review by Ruben-VandeVelde — APPROVED** [review]
maintainer merge

File: Mathlib/Analysis/Normed/Field/Basic.lean [hunk 5]
```diff
@@ -447,6 +447,21 @@ instance MulOpposite.instSeminormedRing : SeminormedRing αᵐᵒᵖ where
   __ := instRing
   __ := instNonUnitalSeminormedRing
 
+lemma norm_sub_mul (ha : ‖a‖ ≤ 1) : ‖c - a * b‖ ≤ ‖c - a‖ + ‖1 - b‖ :=
```
Comment (urkud) [inline Mathlib/Analysis/Normed/Field/Basic.lean:450]: `norm_sub_mul_le`? Also, please add an explanation similar to the one in the top comment to the docstring.

**Comment by urkud** [comment]
Thanks!
bors d+

**Comment by YaelDillies** [comment]
bors merge
